US08664210B2
mCPBA (1.17 g) was added to a stirred solution of 17β-hydroxy-4,4-dimethylandrost-5-en-3-one (1.00 g) in DCM (30 ml). After 8 h at RT, a 10% Na2SO3 aqueous solution was added. The mixture was neutralized by addition of 5% aqueous NaHCO3 solution and was extracted with DCM (3×100 ml). The combined organic extracts were washed with H2O, dried over Na2SO4, and evaporated to dryness. The mixture was purified by flash chromatography (SiO2, n-hexane/EtOAc 70/30) to give 5α,6α-epoxy-4,4-dimethyl-17β-hydroxyandrostan-3-one (230 mg, 23%).

reactant | mCPBA | 1.17 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 17β-hydroxy-4,4-dimethylandrost-5-en-3-one | 1.00 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C(C(CC[C@]3(C)[C@H]1CC2)=O)(C)C | C21H32O2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 5α,6α-epoxy-4,4-dimethyl-17β-hydroxyandrostan-3-one | 230 mg, 23% | O1[C@]23[C@@H]1C[C@H]1[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]1[C@]3(CCC(C2(C)C)=O)C)O | C21H32O3
